US08377950B2
5-[4-[[3-Methyl-4-oxo-3,4-dihydroquinazolin-2-yl]methoxy]benzyl]thiazolidine-2,4-dione (40 g) was dissolved in a mixture of xylene (280 ml) and methanol (280 ml) at reflux temperature to get clear solution. Potassium tertariry butoxide (12.52 g) dissolved in methanol was added slowly drop wise. After complete addition, the reaction mass was stirred at room temperature for 1 hour. The precipitated compound was filtered, washed with methanol and dried the compound in oven at 60-80° C. to yield polymorphic Form 1 of 5-[4-[[3-methyl-4-oxo-3,4-dihydroquinazolin-2-yl]methoxy]benzyl]thiazolidine-2,4-dione potassium salt (40 g).

reactant | 5-[4-[[3-Methyl-4-oxo-3,4-dihydroquinazolin-2-yl]methoxy]benzyl]thiazolidine-2,4-dione | 40 g | CN1C(=NC2=CC=CC=C2C1=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H17N3O4S
reactant | Potassium | 12.52 g | [K] | K
solvent | xylene | 280 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | 280 ml | CO | CH4O
product | 5-[4-[[3-methyl-4-oxo-3,4-dihydroquinazolin-2-yl]methoxy]benzyl]thiazolidine-2,4-dione potassium salt | 40 g | [K].CN1C(=NC2=CC=CC=C2C1=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | InChI=1S/C20H17N3O4S.K/c1-23-17(21-15-5-3-2-4-14(15)19(23)25)11-27-13-8-6-12(7-9-13)10-16-18(24)22-20(26)28-16;/h2-9,16H,10-11H2,1H3,(H,22,24,26);
